2147-10-26 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Received Lactulose 30ml at 8pm, 2am, 4am
   Received Lactulose 60ml at 6am
   3 bowel movements this morning
   This AM, patient is awake and alert, able to respond to questions;
   however somewhat disoriented.  Oriented to place and person only;
   however was aware of [**Last Name (un) 3309**] running for president.
   Pt denies N/V, denies SOB or abdominal pain.  Does not remember events
   which precipitated admission.
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-10-25**] 08:52 PM
   Heparin Sodium - [**2147-10-25**] 08:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 118 (107 - 132) bpm
   BP: 128/86(96) {112/65(79) - 143/94(99)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                    330 mL
                                                                    860 mL
   PO:
                  800 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    200 mL
   Urine:
                                                                    520 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 760 (760 - 1,283) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.54/29/205/23/3
   Ve: 11 L/min
   PaO2 / FiO2: 512
   Physical Examination
   General Appearance: Anxious, jaundice
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: MMM, no LAD
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended with clinical
   ascites, no tenderness
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, Clubbing
   Skin:  Not assessed
   Neurologic: Follows commands, no clonus, no asterixis noted
   Labs / Radiology
   100 K/uL
   9.8 g/dL
   106 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   23 mg/dL
   101 mEq/L
   134 mEq/L
   29.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2147-10-25**]  07:51 PM
                             [**2147-10-25**]  07:57 PM
                             [**2147-10-26**]  04:11 AM
   WBC
   11.7
   13.4
   Hct
   27.9
   29.0
   Plt
   94
   100
   Cr
   0.8
   0.9
   TCO2
   26
   Glucose
   100
   106
   Other labs: PT / PTT / INR:20.8/41.6/2.0, ALT / AST:67/122, Alk Phos /
   T Bili:145/8.5, Lactic Acid:2.2 mmol/L, Albumin:2.6 g/dL, LDH:426 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   41 yo M with ESLD from alcohol and hepatitis C on transplant list,
   pulmonary hypertension and hypothyroidism who presents with altered
   mental status.
   .
   # Altered mental status: likely secondary to hepatic encephalopathy.
   Unclear etiology but probably related to Trazodone which pt took 2 of
   before event.  Was given lactulose in the ED with bowel movement
   afterwards. His mental status seems improved currently.
   -lactulose titrated to [**3-25**] bowel movements per day
   -hold sedating medications
   -f/u cultures
   .
   # Primary respiratory alkalosis: now resolved and patient is extubated.
   -continue supportive care
   .
   # Nausea and vomiting: Resolved.  Likely gastroenteritis or could be
   from new medications for muscle spasms including magnesium which dose
   was recently increased.
   -no sign of currently nausea or emesis. Will monitor.
   .
   # Ascites: no evidence of infection with WBC low in the ascites fluid.
   He is distended and will need paracentesis.
   -follow up ascites culture
   .
   # Elevated WBCs with left shift: concerning for infection although
   peritoneal fluid does not have >250 polys and does not present picture
   of SBP.  Pt is afebrile and otherwise asymptomatic.
   - will continue to trend and hold off on abx at this time
   - f/u cultures from peritoneal fluid
   .
   # Anemia: HCT 29.0 today which appears to be baseline and likely from
   chronic liver disease.
   - continue to monitor, transfuse for symptoms or HCT<21.
   .
   # Thrombocytopenia: Platelets 100 this AM.  Appears to be baseline and
   likely from chronic liver disease
   - continue to trend, monitor for bleeding
   .
   # ESLD: secondary to alcohol and hepatitis C. Followed by Dr. [**Last Name (STitle) 1174**] on
   transplant list. Tbili is more elevated than his baseline of [**3-25**].
   Currently trending up and is 8.5 this AM.  Will f/u with fractionated
   bilirubin.
   -continue rifaximine, lactulose
   -Hepatology aware and appreciate consult
   -continue lasix and spironolactone
   -paracentesis in AM
   .
   # Pulmonary hypertension: continue iloprost and sildenafil.
   .
   # Hypothyroidism: continue levothyroxine
   .
   # FEN: Regular diet with sodium restriction, on home diuretics but
   appears volume overloaded.  Replete lytes PRN.
   .
   # PPX: heparin SQ for DVT ppx, omeprazole [**Hospital1 7**] for GI ppx per home
   regimen.
   .
   # Code: full
   .
   # Communication: patient and mother
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-10-25**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-10-28 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2147-10-28 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Evaluated by neurology who were concerned about RLE weakness and so
   recommended urgent brain MRI, neck MRA.
   - Became progressively tachycardic to 140s which did not respond to
   versed 3 mg, 500 cc fluid bolus, PS 5/5.  He responded to fentanyl
   bolus.
   - Ammonia found to be 286
   - Head CT showed ?degenerative disk disease, reccommended lateral film
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 121 (96 - 141) bpm
   BP: 134/85(101) {92/52(66) - 139/85(101)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 75.3 kg
   Height: 67 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  1,588 mL
                                                                     71 mL
   PO:
   TF:
   IVF:
                                                                    948 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    815 mL
   Urine:
                                                                    835 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 850 (850 - 1,070) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.43/30/431/18/-2
   Ve: 11 L/min
   PaO2 / FiO2: 1,078
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, +ascites
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   123 K/uL
   10.0 g/dL
   131 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   137 mEq/L
   31.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2147-10-26**]  04:11 AM
                             [**2147-10-27**]  06:16 AM
                             [**2147-10-27**]  08:17 AM
                             [**2147-10-27**]  11:51 AM
                             [**2147-10-27**]  12:53 PM
                             [**2147-10-27**]  04:50 PM
                             [**2147-10-27**]  07:04 PM
                             [**2147-10-27**]  09:35 PM
                             [**2147-10-28**]  05:54 AM
                             [**2147-10-28**]  06:04 AM
   WBC
   13.4
   8.4
   10.9
   12.2
   Hct
   29.0
   31.0
   28.9
   31.6
   Plt
   100
   107
   114
   123
   Cr
   0.9
   0.9
   0.9
   0.8
   TropT
   <0.01
   TCO2
   23
   24
   25
   25
   22
   21
   Glucose
   106
   105
   107
   131
   Other labs: PT / PTT / INR:21.2/44.0/2.0, CK / CKMB /
   Troponin-T:158/6/<0.01, ALT / AST:59/106, Alk Phos / T Bili:136/6.2,
   Differential-Neuts:81.8 %, Lymph:7.3 %, Mono:9.9 %, Eos:0.9 %, Lactic
   Acid:2.8 mmol/L, Albumin:2.5 g/dL, LDH:434 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   41 yo male with ESLD with cirrhosis, pulm HTN, originally admitted
   after being intubated for airway protection from AMS thought [**1-21**] to
   hepatic encephalopathy.  Now found unresponsive with hypoxia and
   respiratory failure.
   .
   # Respiratory failure: Intubated after found unresponsive.  Unclear
   etiology but likely related to encephalopathy/delta MS.  [**Name13 (STitle) **]
   intubation in 2 days.  No hemodynamic compromise.
   - management of altered mental status/encephalopathy below.
   - vent: check ABG and adjust accordingly; AC ventilation for now.
   - VAP precautions
   - Eval for other causes of respiratory distress (other than delta MS);
   checking CXR, infectious workup, check ECG.
   .
   # Encephalopathy/delta MS - likely [**1-21**] hepatic encephalopathy.
   Initially suspected to be encephalopathic at home as per mother pt only
   having 2 BM/day. No obvious recent GIB, no evidence of infection (SBP
   ruled out, CXR without infiltrate, urine with 29 WBCs but bloody. Pt
   had been recently started on cyclobenzaprine, mag, and hyoscyamine, and
   trazadone which may have contributed at home.   Urine tox neg in ED;
   serum tox checked only for etoh and negative.  Flows normal on
   ultrasound.
   - repeat tox screen and infectious workup.
   - f/u peritoneal fluid cultures.
   - Place OGT; lactulose Q1-2H until stools, then Q4-6 hours.
   - avoid sedating medications, titrate off fent and versed early this
   AM.
   - guaiac stools.
   - Check head CT this AM given acute change and coagulopathy.
   - consider eeg - ?could this be seizure.
   - check ammonia to trend.
   .
   # Respiratory alkalosis.  ABG currently ph 7.56/ pCO2 28.  Also noted
   to have alkalosis in the past.  ? related to liver disease /cirrhosis
   and ascites.
   -          decrease TV on vent vs. trial of PS.
   -          Checking serum tox to r/o salicylates.
   .
   # ESLD: [**1-21**] ETOH/HepC. +h/o hepatic encephalopathy, known varices,
   followed by Dr. [**Last Name (STitle) 1174**], on transplant list. +ascites, no SBP presently.
   Therapeutic para yesterday.
   - continue lactulose/rifaximin as above.
   - ?should he be on nadolol.
   - guaiac stools.
   - hold Lasix and spironolactone this AM given high lactate to ensure BP
   stability; likely restart this PM.
   - continue cipro prophylaxis for SBP.
   .
   # pulmonary HTN: on sildenifil and iloprost at home; concern for
   rebound hypertension given that pt has not been on iloprost inhalers
   for past 2-3 days.  No hemodynamic compromise to suggest that
   respiratory distress was consequence of pulmonary hypertension
   decompensation.
   - attempting to get iloprost inhalers.
   - continue sildenafil.
   .
   # leukocytosis: +left shift, no obvious source of infection presently,
   could be reactive. no fever. cxr without evidence of aspiration.
   - recheck in MICU
   - check UA/UCx, blood cultures.
   - trend fever curve and wbc.
   .
   # anemia/thrombocytopenia: baseline hct ~27, plt 70-90.  Retic-ing
   well.
   - guaiac stools.
   - trend HCT.
   .
   # hypothyroidism: TSH was elevated 6.6->4.9, since [**2-25**] on 75mcg
   synthroid.  increased levothyroxine to 88mcg/qdaily earlier during
   admission.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-10-27**] 06:45 AM
   18 Gauge - [**2147-10-27**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2147-10-28 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2147-10-27**] 08:18 AM
 EEG - At [**2147-10-27**] 02:46 PM
 MAGNETIC RESONANCE IMAGING - At [**2147-10-28**] 01:15 AM
   > Markedly improved mental status
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 118 (96 - 141) bpm
   BP: 125/74(90) {92/52(66) - 139/85(101)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 75.3 kg
   Height: 67 Inch
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  1,588 mL
                                                                    180 mL
   PO:
   TF:
   IVF:
                                                                    948 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    985 mL
   Urine:
                                                                    835 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    753 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,026 (850 - 1,070) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.43/30/431/18/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 1,078
   Physical Examination
   General Appearance: No acute distress, Thin, icteric
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, large
   ascites
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, not able to move the
   right leg and increasd patellar reflex on the right. Downgoing toes
   bilateral,
   Labs / Radiology
   10.0 g/dL
   123 K/uL
   131 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   137 mEq/L
   31.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2147-10-26**]  04:11 AM
                             [**2147-10-27**]  06:16 AM
                             [**2147-10-27**]  08:17 AM
                             [**2147-10-27**]  11:51 AM
                             [**2147-10-27**]  12:53 PM
                             [**2147-10-27**]  04:50 PM
                             [**2147-10-27**]  07:04 PM
                             [**2147-10-27**]  09:35 PM
                             [**2147-10-28**]  05:54 AM
                             [**2147-10-28**]  06:04 AM
   WBC
   13.4
   8.4
   10.9
   12.2
   Hct
   29.0
   31.0
   28.9
   31.6
   Plt
   100
   107
   114
   123
   Cr
   0.9
   0.9
   0.9
   0.8
   TropT
   <0.01
   TCO2
   23
   24
   25
   25
   22
   21
   Glucose
   106
   105
   107
   131
   Other labs: PT / PTT / INR:21.2/44.0/2.0, CK / CKMB /
   Troponin-T:158/6/<0.01, ALT / AST:59/106, Alk Phos / T Bili:136/6.2,
   Differential-Neuts:81.8 %, Lymph:7.3 %, Mono:9.9 %, Eos:0.9 %, Lactic
   Acid:2.8 mmol/L, Albumin:2.5 g/dL, LDH:434 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   CXR [**10-28**]: improved lung volumes compared to [**10-27**]. no obvious
   infiltrate.
   Sputum [**10-27**]: GPR and GPC in pairs and chains
   Assessment and Plan
   41 yo male with cirrhosis (EtOH/HCV) and hepatic encephalopathy found
   down on the floor with pool of saliva intubated for mental status now
   improved, without clear explanation for why he declined.
    > Respiratory failure: unclear etiology to his decline in mental
   status. There was no clear precipitating event: infection, bleed (Hct
   stable), cardiac event (nl ECG) or addition of new sedating
   medications. At baseline he likely has impaired respiratory function
   from his ascites which causes a functional restrictive vent deficit.
   His acute decline could represent a worsening of his encephalopathy
   (NH3 286) evidence of head bleed on CT or  seizure on EEG. Marked
   improvement in mental status after starting lactulose. Extubated
   [**2147-10-28**]. Sputum culture is likely to be oral flora base on appearance
   of CXR and clinical improvement, will defer treatment
   - Pulmonary toilet, HOB elevation
   - cont lactulose as below
 HEPATIC ENCEPHALOPATHY / ALTERED MENTAL STATUS: no evidence of head
   bleed or seizure. Markedly improved with lactulose.  Notably EEG did
   not reveal seizure. There is no clear precipitant for his decline other
   then worsening hepatic encephalopathy. He is markedly improved this
   morning.
   - Cont lactulose and rifax (will likely need an NG tube)
   - Restart lasix and spironolactone
   - [**Month (only) 51**] need a repeat paracentesis in the near future will confer with
   liver service.
   - Avoid sedation
   - Cont Cipro for SBP prophylaxis
   - Vitamin K for 3 day
   - F/[**Location 39**] read of the MRI
   > Right leg weakness: Neuro team concerned for right leg weakness, will
   f/u MRI/A (no evidence of acute process) still with decreased right leg
   .  Appreciate neurology input: he still has some right lower leg
   weakness
   > Thrombocytopenia: likely [**1-21**] underlying cirrhosis and sequestration.
    > Pulmonary Hyptertension: likely [**1-21**] underlying liver disease
   (?hepatopulmonary syndrome). The current presentation is not consistent
   with decompensated pulm hypertension. Can cont the sildenafil for now
   and restart illoprost when more awake.
    Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: PO when able
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2147-10-27**] 06:45 AM
   18 Gauge - [**2147-10-27**] 08:03 AM
   Prophylaxis:
   DVT: Boots, INR 2.0
   Stress ulcer: PPI
   VAP: HOB elevation, Aspiration precautions.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2147-10-29 07:52:00 Physician Resident Progress Note
Chief Complaint: respiratory failure and encephalopathy
   24 Hour Events:
   MRA head (-)
   MRI head showed small vessel disease, basal ganglia changes c/w
   encephalopathy, no acute ischemia
   NGT placed, lactulose initiated, tube feeds initiated
   Held off on paracentesis as per liver recs
   No neuro recs
   Asking for something to eat/drink
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-29**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 101 (96 - 123) bpm
   BP: 139/71(91) {108/63(84) - 140/105(175)} mmHg
   RR: 11 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 75.3 kg
   Height: 67 Inch
             Total In:
                                                                    800 mL
                                                                    337 mL
   PO:
             TF:
                                                                    100 mL
                                                                     78 mL
   IVF:
                                                                    240 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  4,095 mL
                                                                  1,970 mL
   Urine:
                                                                  1,295 mL
                                                                    170 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
                                                                    600 mL
                                                                  1,800 mL
   Balance:
                                                                 -3,295 mL
                                                                 -1,633 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented to name, place, year [**2145**]. Significantly less
   encephalopathic
   HEENT: scleral icterus
   Lungs: CTA biiat.    Heart: RRR, S1 S2 slightly tachy
   Abdomen: +BS, only small lower area of dullness, decreased in size.
   Bag overlying past para site, draining clear straw colored fluid.
   Extrem: [**12-21**]+ pitting edema.
   Neuro: RLE strength 5/5
   Labs / Radiology
   104 K/uL
   9.2 g/dL
   103 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.3 mEq/L
   22 mg/dL
   106 mEq/L
   135 mEq/L
   27.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2147-10-27**]  06:16 AM
                             [**2147-10-27**]  08:17 AM
                             [**2147-10-27**]  11:51 AM
                             [**2147-10-27**]  12:53 PM
                             [**2147-10-27**]  04:50 PM
                             [**2147-10-27**]  07:04 PM
                             [**2147-10-27**]  09:35 PM
                             [**2147-10-28**]  05:54 AM
                             [**2147-10-28**]  06:04 AM
                             [**2147-10-29**]  04:38 AM
   WBC
   8.4
   10.9
   12.2
   11.8
   Hct
   31.0
   28.9
   31.6
   27.9
   Plt
   107
   114
   123
   104
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   TCO2
   23
   24
   25
   25
   22
   21
   Glucose
   105
   107
   131
   103
   Other labs: PT / PTT / INR:20.7/44.1/2.0, CK / CKMB /
   Troponin-T:158/6/<0.01, ALT / AST:56/88, Alk Phos / T Bili:132/5.9,
   Differential-Neuts:81.8 %, Lymph:7.3 %, Mono:9.9 %, Eos:0.9 %, Lactic
   Acid:2.8 mmol/L, Albumin:2.4 g/dL, LDH:344 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3402**] is an 41 yo male with cirrhosis, pulm HTN, admitted for
   airway protection x 2 in setting of hepatic encephalopathy .
   .
   1.       Altered mental status.  Patient intubated after an unwitness
   event of unclear etiology on floor  (?worsening hepatic encephalopathy,
   large volume para, seizure).  Improved with aggressive lactulose with
   good effect overnight and minimizing sedation (boluses of versed and
   fentanyl).  Extubated early yesterday.
   -          continue lactulose for >4 BMs/day and improvement of mental
   status. Change to PO.
   -          hold all further mind altering meds
   -          Infectious workup
   -          Guaiac stools.
   2.        ?RLE weakness.   Concern that was not withdrawing to pain;
   now that alert has full strength.  Did have MRI which was
   unremarkable.
   -          neuro following, appreciate recs.
   3.       Airway.  Intubated for airway protection, now extubated.
   4.       Cirrhosis.  History of alcohol and Hep C cirrhosis with grade
   1 varices.  ON transplant list.  Singnificant abdominal ascites on
   exam, though was tapped for 4 L two days ago.  Continues to drain from
   that site > 2 L overnight.
   -          continue lactulose, lasix, spironolactone
   -           continue cipro prophylaxis
   -          Consider suture to para site, will d/w liver.
   5.       Pulmonary hypertension.
   -          continue slidenafil and iloprost.
           6.   Anemia/thrombocytopenia: baseline hct ~27, plt 70-90..
   Drop in hct since yesterday, but was 29 the prior day.
                       - guaiac stools.
                        - trend Hct, platelets
   7.     Hypothyroidism.  TSH was elevated 6.6->4.9, since [**2-25**] on 75mcg
   synthroid.  increased levothyroxine to 88mcg/qdaily earlier during
   admission.
   -          continue synthroid
   8.      ?degenerative disk disease of cervical spine.  Finding noted on
   head CT.
                     -  consider c-spine imaging when he improves
   clnically
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-28**] 02:00 PM 10 mL/hour, change to
   oral diet as long as no swallowing issues
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-10-27**] 06:45 AM
 can remove
   18 Gauge - [**2147-10-27**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2147-10-29 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-29**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 101 (96 - 123) bpm
   BP: 139/71(91) {108/63(84) - 140/105(175)} mmHg
   RR: 11 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.3 kg (admission): 75.3 kg
   Height: 67 Inch
             Total In:
                                                                    800 mL
                                                                    753 mL
   PO:
             250 mL
   TF:
                                                                    100 mL
                                                                     82 mL
   IVF:
                                                                    240 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  4,095 mL
                                                                  2,000 mL
   Urine:
                                                                  1,295 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
                                                                    600 mL
                                                                  1,800 mL
   Balance:
                                                                 -3,295 mL
                                                                 -1,247 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96% RA
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: icterus
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases bilateral)
   Abdominal: Soft, Non-tender, Distended, large ascites with active leak.
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Purposeful, Tone: Normal. Right
   leg strength intact
   Labs / Radiology
   9.2 g/dL
   104 K/uL
   103 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.3 mEq/L
   22 mg/dL
   106 mEq/L
   135 mEq/L
   27.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2147-10-27**]  06:16 AM
                             [**2147-10-27**]  08:17 AM
                             [**2147-10-27**]  11:51 AM
                             [**2147-10-27**]  12:53 PM
                             [**2147-10-27**]  04:50 PM
                             [**2147-10-27**]  07:04 PM
                             [**2147-10-27**]  09:35 PM
                             [**2147-10-28**]  05:54 AM
                             [**2147-10-28**]  06:04 AM
                             [**2147-10-29**]  04:38 AM
   WBC
   8.4
   10.9
   12.2
   11.8
   Hct
   31.0
   28.9
   31.6
   27.9
   Plt
   107
   114
   123
   104
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   TCO2
   23
   24
   25
   25
   22
   21
   Glucose
   105
   107
   131
   103
   Other labs: PT / PTT / INR:20.7/44.1/2.0, CK / CKMB /
   Troponin-T:158/6/<0.01, ALT / AST:56/88, Alk Phos / T Bili:132/5.9,
   Differential-Neuts:81.8 %, Lymph:7.3 %, Mono:9.9 %, Eos:0.9 %, /L,
   Albumin:2.4 g/dL, LDH:344 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   CXR [**10-29**]: improved lung volumes.
   Assessment and Plan
   41 yo male with cirrhosis (EtOH/HCV) and hepatic encephalopathy found
   down on the floor with pool of saliva intubated for mental status now
   improved, without clear explanation for why he declined.
    > Respiratory failure: unclear etiology to his decline in mental
   status. There was no clear precipitating event: infection, bleed (Hct
   stable), cardiac event (nl ECG) or addition of new sedating
   medications. At baseline he likely has impaired respiratory function
   from his ascites which causes a functional restrictive vent deficit.
   His acute decline could represent a worsening of his encephalopathy
   (NH3 286) evidence of head bleed on CT or  seizure on EEG. Marked
   improvement in mental status after starting lactulose. Extubated
   [**2147-10-28**]. Sputum culture is likely to be oral flora base on appearance
   of CXR and clinical improvement, will defer treatment
   - Pulmonary toilet, HOB elevation
   - cont lactulose as below
 HEPATIC ENCEPHALOPATHY / ALTERED MENTAL STATUS: no evidence of head
   bleed or seizure. Markedly improved with lactulose.  Notably EEG did
   not reveal seizure. There is no clear precipitant for his decline other
   then worsening hepatic encephalopathy. He has now improved to his
   baseline.
   - Cont lactulose and rifax (will likely need an NG tube)
   - Lasix and spironolactone
   - [**Month (only) 51**] need a repeat paracentesis in the near future will confer with
   liver service.
   - Avoid sedation
   - Cont Cipro for SBP prophylaxis
   - Vitamin K (cont for now)
   - he may need a stitch at the paracentesis site (will d/w liver)
   > Anemia:  unexplained drop in Hct. No evidence of hemolysis (LDH
   trending down). Will recheck HCT now.  He has been guiace negative.
   There was a report of pink colored ascites yesterday, possibly
   contributing to lower Hct.
   - Recheck Hct (if conts low will need to more actively reverse INR)
   > Right leg weakness: Neuro team concerned for right leg weakness, the
   MRI/A has revealed chronic changes. The right lower weakness has
   resolved
    > Thrombocytopenia: likely [**1-21**] underlying cirrhosis and sequestration.
   Counts have been stable.
    > Pulmonary Hyptertension: likely [**1-21**] underlying liver disease
   (?hepatopulmonary syndrome). The current presentation is not consistent
   with decompensated pulm hypertension. Can cont the sildenafil for now
   and restart illoprost when more awake.
    Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2147-10-28**] 02:00 PM 10 mL/hour. Can likely
   take PO today (will leave NG inplace).
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2147-10-27**] 06:45 AM
   18 Gauge - [**2147-10-27**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor (liver source)
   Total time spent: 35 minutes